US06831087B2
a) 2-Bromo-4-nitro-5,6,7,8-tetrahydro-quinoline 1-oxide
With efficient ice bath cooling 2-bromo-5,6,7,8-tetrahydro-quinoline 1-oxide (8.0 g, 35 mmol) (S. Zimmermann et al., J. Am. Chem. Soc., 1991, 113, 183) was treated with conc. H2SO4 (65 ml), followed by conc. HNO3 (10 ml). The resulting mixture was heated to 90° C. for 90 min, cooled and poured on crushed ice (200 g). NaOH (28%) was added to reach pH 7 and the aqueous phase extracted with AcOEt. The organic phase was dried (Na2SO4) and concentrated to yield 7.9 g (83%) of the title compound as a yellow oil. MS: m/e=272 (M+).

reactant | 2-bromo-5,6,7,8-tetrahydro-quinoline 1-oxide | 35 mmol, 8.0 g | BrC1=[N+](C=2CCCCC2C=C1)[O-] | C9H10BrNO
reactant | H2SO4 | 65 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | HNO3 | 10 ml | [N+](=O)(O)[O-] | HNO3
product | 2-Bromo-4-nitro-5,6,7,8-tetrahydro-quinoline 1-oxide | 7.9 g, 83% | BrC1=[N+](C=2CCCCC2C(=C1)[N+](=O)[O-])[O-] | C9H9BrN2O3
